US08017646B2
Following the procedure described in example 2, but starting from trans-3-(4-fluoro-3-methylphenyl)prop-2-en-1-ol (710 mg), potassium hydroxide (592 mg, 85% wt) and 1-(3-chloropropyl)pyrrolidine, hydrochloride (802 mg) in dimethylsufoxide (6 mL) affords 280 mg of trans-1-{3-[3-(4-fluoro-3-methylphenyl)allyloxy]propyl}-pyrrolidine.

reactant | trans-3-(4-fluoro-3-methylphenyl)prop-2-en-1-ol | 710 mg | FC1=C(C=C(C=C1)/C=C/CO)C | C10H11FO
reactant | potassium hydroxide | 592 mg | [OH-].[K+]
reactant | 1-(3-chloropropyl)pyrrolidine, hydrochloride | 802 mg | Cl.ClCCCN1CCCC1
product | trans-1-{3-[3-(4-fluoro-3-methylphenyl)allyloxy]propyl}-pyrrolidine | 280 mg | FC1=C(C=C(C=C1)/C=C/COCCCN1CCCC1)C | C17H24FNO
